US07115750B1
6-(4-Aminobenzyloxy)-2-[(N,N-dimethylamino)methyl]tetralin
After acetic acid (6 ml) was added to THF solution (12 ml) of 2-[(N,N-dimethylamino)methyl]-6-(4-nitrobenzyloxy)tetralin (1.91 g) under ice-cooling, zinc powder (3.67 g) was further added, which was stirred for 6 hours. The reaction mixture was filtered, and the filtrate was concentrated. 10% aqueous potassium carbonate solution and ethyl acetate were added to the residue, the precipitate was removed by celite filtration, and the filtrate was extracted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using aluminum column chromatography (development solvent; hexane˜hexane:ethyl acetate=4:1) to give the titled compound (1.05 g).

reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
reactant | 2-[(N,N-dimethylamino)methyl]-6-(4-nitrobenzyloxy)tetralin | 1.91 g | CN(C)CC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H24N2O3
catalyst | zinc | 3.67 g | [Zn] | Zn
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | 6-(4-Aminobenzyloxy)-2-[(N,N-dimethylamino)methyl]tetralin | 1.05 g | NC1=CC=C(COC=2C=C3CCC(CC3=CC2)CN(C)C)C=C1 | C20H26N2O
